US08293903B2
Step 10. 1,5-Anhydro-3-{[(1R,3S)-3-{[(1S,4S)-5-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(1-hydroxycyclobutyl)cyclopentyl]amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol
A mixture of 1.31 g (2.23 mmol) of 1,5-anhydro-3-{[(1R,3S)-3-{[(1S,4S)-5-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(1-hydroxycyclobutyl)cyclopentyl](trifluoroacetyl)amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol and 860 mg (23 mmol) of sodium borohydride in 6.3 mL of ethanol was stirred at ambient temperature for 18 h, then partitioned between water and dichloromethane. The aqueous phase was extracted with additional dichloromethane, and the combined organic phase dried (Na2SO4) and concentrated under reduced pressure. Flash chromatography on silica using 6-15% methanol in dichloromethane afforded 1.08 g (98%) of the title compound as a white foam. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.42-1.47 (m, 9H) 1.56-2.35 (m, 14H) 2.72 (br. s., 1H) 3.11-3.68 (m, 10H) 3.90-3.98 (m, 1H) 4.08 (dd, J=12.6, 2.7 Hz, 1H) 4.38-4.58 (m, 1H) 4.84-5.16 (m, 1H). LC-MS ES+ 494.3. HRMS calculated for C26H43N3O6: 494.3230; found: 494.3260.

reactant | 1,5-anhydro-3-{[(1R,3S)-3-{[(1S,4S)-5-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(1-hydroxycyclobutyl)cyclopentyl](trifluoroacetyl)amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol | 2.23 mmol, 1.31 g | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C(=O)[C@@]2(C[C@@H](CC2)N([C@H]2CCOC[C@H]2OC)C(C(F)(F)F)=O)C2(CCC2)O | C28H42F3N3O7
reactant | sodium borohydride | 23 mmol, 860 mg | [BH4-].[Na+]
solvent | ethanol | 6.3 mL | C(C)O | C2H6O
product | 1,5-Anhydro-3-{[(1R,3S)-3-{[(1S,4S)-5-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(1-hydroxycyclobutyl)cyclopentyl]amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol | 1.08 g, 98% | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C(=O)[C@@]2(C[C@@H](CC2)N[C@H]2CCOC[C@H]2OC)C2(CCC2)O | C26H43N3O6
